* C:\Users\Nanodyn - Spare\OneDrive - Nanodyn\Desktop\GIT repository\Waveform-generator\LTspice Circuits\Signal level shifting circuit.asc
R1 P001 Input 1k
C1 N001 P001 10µ
R2 N002 N001 1k
XU1 0 N001 V+ V- N002 OP77
V1 V+ 0 5V
V2 V- 0 -5V
V3 Input 0 SINE(1 1 10000 0 0)
R3 P002 N002 1k
C3 N003 P002 10µ
XU2 0 N003 V+ v- Output OP777
R4 Output N003 1k
.tran 0.01
.lib ADI.lib
.backanno
.end
